US05166153
51 g of 1-[4-(3-chlorophenoxy)-phenoxy]-2-propanone are dissolved in 510 ml of methanol in an autoclave, and 10 g of Raney nickel are added. 31 g of liquid ammonia are introduced, and then hydrogen gas is introduced under pressure. The reaction mixture is hydrogenated at 50 bar and +40° C.-45° C. for 2 hours. The reaction mixture is then filtered through diatomaceous earth and the solvent is distilled off completely in vacuo. The crude product is chromatographed over silica gel (eluant: diethyl ether/methanol, 9:1), yielding pure 2-amino-1-[4-(3-chlorophenoxy)-phenoxy]-propane in the form of a colourless, oily liquid, n20D : 1.5743.

reactant | 1-[4-(3-chlorophenoxy)-phenoxy]-2-propanone | 51 g | ClC=1C=C(OC2=CC=C(OCC(C)=O)C=C2)C=CC1 | C15H13ClO3
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 510 ml | CO | CH4O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | 2-amino-1-[4-(3-chlorophenoxy)-phenoxy]-propane | NC(COC1=CC=C(C=C1)OC1=CC(=CC=C1)Cl)C | C15H16ClNO2
